US08168666B2
f) Preparation of 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pentan-2-ol
A 2 mol/L Lithium hydroxide solution (2 mL) was added to a mixed solution of 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pent-2-yl acetate (80.4 mg, 169 μmol) in methanol (1.5 mL) at room temperature, followed by heating at an external temperature of 60° C. in an oil bath overnight. After completion of the reaction, methanol was evaporated under reduced pressure. The pH was adjusted to 7 by adding 4 mol/L hydrochloric acid (2 mL) to the residue. After extraction with chloroform-water, the organic layer was washed with a saturated sodium chloride solution and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. 68.1 mg of the title compound (yield: 93%) was obtained as a colorless oil.

reactant | Lithium hydroxide | 2 mol/L, 2 mL | [OH-].[Li+]
reactant | 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pent-2-yl acetate | 169 μmol, 80.4 mg | C(C)(=O)OC(C)CCCOC1=C(C=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OCOC)CCC | C21H28F6O5
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-[4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-propylphenyloxy]pentan-2-ol | 68.1 mg, yield: 93% | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)OCCCC(C)O)CCC)(F)F | C19H26F6O4
